*
.SUBCKT 1n4148 1 2
* The Resistor R1 does not reflect a physical device.  Instead it
* improves modeling in the reverse  mode of operation.
*
R1 1 2 6E+07
D1 1 2 1N4148
*
*1N4148WS from Diodes Inc.
.MODEL 1N4148 D ( IS=10.4n RS=51.5m BV=75.0 IBV=1.00u
+ CJO=2.00p  M=0.333 N=2.07 TT=5.76n )
*
.ENDS
