*
.SUBCKT BAT17 1 3
*pin 2 is open
* The Resistor R1 does not reflect a physical device. Instead it
* improves modeling in the reverse  mode of operation.
*
R1 1 3 6E+07
D1 1 3 BAT17
*
.MODEL BAT17 D 
+ IS = 1.419E-09 
+ N = 1.022 
+ BV = 6 
+ IBV = 2.45E-06 
+ RS = 5.112 
+ CJO = 7.867E-13 
+ VJ = 0.1043 
+ M = 0.1439 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*
